US04001419
A mixture of 1'-methylxanthene-9-spiro-4'-piperidine hydrochloride (5 g.), N-chlorosuccinimide (4.5 g.) and dichloromethane (100 ml.) is refluxed for 72 hours. The solution is washed with saturated sodium bicarbonate solution then water and dried with MgS04. The solution is evaporated to give a gummy residue which is chromatographed on grade 3 aluminium oxide, Woelm basic. The product is eluted with 30% petroleum-ether (b.p. 60°-80° C.)/chloroform, taken up in ether and the solution treated with ethereal hydrochloric acid. The precipitate is filtered and recrystallised from ethanol-ether to give 2,7-dichloro-1'-methylxanthene-9-spiro-4'-piperidine hydrochloride, m.p. 285° C.

reactant | 1'-methylxanthene-9-spiro-4'-piperidine hydrochloride | 5 g | Cl.CN1CCC2(CC1)C1=CC=CC=C1OC=1C=CC=CC12
reactant | N-chlorosuccinimide | 4.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2,7-dichloro-1'-methylxanthene-9-spiro-4'-piperidine hydrochloride | Cl.ClC1=CC2=C(C=C1)OC1=CC=C(C=C1C21CCN(CC1)C)Cl | InChI=1S/C18H17Cl2NO.ClH/c1-21-8-6-18(7-9-21)14-10-12(19)2-4-16(14)22-17-5-3-13(20)11-15(17)18;/h2-5,10-11H,6-9H2,1H3;1H
